US05981525
(E)-3-(2-Indolyl)-2-propenaldehyde.
Indole 2-carboxaldehyde (6.72 g, 46.3 mmol) was dissolved in dry toluene (450 ml) and treated with (formylmethylene)triphenylphosphorane (21.3 g, 70 mmol). The reaction mixture was treated under reflux for 4 h, allowed to cool and chromatographed over silica gel using toluene (2×500 ml) and then hexane/EtOAc (3:1) (2×500 ml) as the eluent. Evaporation of the solvent and recrystallization of the residue from toluene yielded 4.96 g (62.6%) of the title compound, m.p.=203-204° C.

reactant | Indole 2-carboxaldehyde | 46.3 mmol, 6.72 g | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | (formylmethylene)triphenylphosphorane | 70 mmol, 21.3 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(2-Indolyl)-2-propenaldehyde | 4.96 g, 62.6% | N1C(=CC2=CC=CC=C12)/C=C/C=O | C11H9NO
